Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute mania
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old man with recent psychiatric 
hospitalization to ___ a week ago for mania, p/w 
recurrence of mood swings, cycling between depressed mood/SI and 
elevated mood and erratic behaviors.  

The history is taken from the patient as well as the psych note, 
which was taken from his parents. As per parents (divorced but 
amicable), over the past 3 weeks patient had been "cycling up 
and down", with intermittent "mania" to the point of 
disconnectedness.  He
switches within hours to days from utter despair with 
threatening suicide to a "maniacal high".  His family reported 
that he would often rapidly change subjects, not making sense, 
and had delusions. He often reportedly had paranoid thoughts 
about people saying bad things about him. 

He was recently admitted to ___ facility 2 
weeks ago and stayed 7 days. He was discharged on low-dose 
Seroquel and gabapentin. Since then he has been attending a day 
program at ___. Yesterday, given his continued erratic 
behavior, his parents convinced him to see psychotherapist at 
___, who noted suicidal ideation and had patient sent to the 
ED.  Both his parents and sister notes that due to recent 
behavior they are very concerned patient could be a harm to 
self, and are concerned about their own safety when he is 
around, with family hiding knives in house and father hiding his 
guns at home.

In the ED, initial vitals: 98.4 82 113/61 16 100% RA. Labs were 
significant for mild leukocytosis to 10.5 with 74% PMNs, very 
concentrated urine with ___ RBCs. There was no imaging done. 
Psychiatry consulted in the ED and ___ him. They 
recommended starting risperidone 1mg PO BID, Ativan 1mg TID, and 
transfer to inpatient psychiatry facility. In the ED, he was 
given Ativan and risperidone. Vitals prior to transfer:  98.6 73 
107/63 16 98% RA. 

On the floor, the patient has a flat affect. He is conversant 
and cooperative. He denies SI currently. 

 
Past Medical History:
Bipolar disorder
Prior self-harm at age ___
 
Social History:
___: until ___ weeks ago was smoking about 2 g/day of
marijuana.  Notes over past month using butane hash oil with
marijuana to utilize more purified THC (see above in HPI).  
ETOH: on weekends occasionally has up to 11 shots of hard liquor
at a time, does not drink daily
Tobacco: occasionally smokes cigarettes socially
Caffeine: 1 cup/day
Other Illicit drugs: denies 
 Born and raised in: ___
 Family/Support: Does not feel close to family, parents are
divorced but amicable
 Housing: currently living in ___ on father ___'s couch
with father and sister, recently kicked out of house by mother
for behavioral changes, he reports related to being caught
smoking marijuana (see above in HPI)
 Education: Highest level freshman at ___, dropped out at
end of last year
 Employment/Income: Works as ___ and as ___
 Spiritual: Not religious, agnostic
 Trauma history: Possibly, does not wish to discuss 

 
Family History:
Notes sister is quite anxious, maternal grandmother was severely
depressed. Also positive for ___, Meniere's disease, and 
Alzheimer's disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  97.6 108/60 80 18 98% RA 
GEN: Alert, lying in bed, no acute distress. Conversant, 
cooperative. Flat affect.  
HEENT: MMM, PERRL.   
NECK: Supple 
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, non-tender, non-distended, no masses  
EXTREM: Warm, no edema  
NEURO: Grossly normal 

DISCHARGE PHYSICAL EXAM:
VS: 97.9 95/53 76 18 100% RA
GEN: Alert, lying in bed, no acute distress. Conversant, 
cooperative, calm.
HEENT: MMM, PERRL.   
NECK: Supple 
PULM: Clear, no wheeze, rales, or rhonchi  
COR: RRR, normal S1/S2, no murmurs 
ABD: Soft, non-tender, non-distended, no masses  
EXTREM: Warm, no edema  
NEURO: Grossly normal 
 
Pertinent Results:
ADMISSION LABS:
___ 03:33PM BLOOD WBC-10.5* RBC-5.05 Hgb-14.5 Hct-41.5 
MCV-82 MCH-28.7 MCHC-34.9 RDW-12.6 RDWSD-37.5 Plt ___
___ 03:33PM BLOOD Neuts-74.4* ___ Monos-4.4* 
Eos-0.4* Baso-0.8 Im ___ AbsNeut-7.80* AbsLymp-2.05 
AbsMono-0.46 AbsEos-0.04 AbsBaso-0.08
___ 03:33PM BLOOD Glucose-93 UreaN-17 Creat-1.1 Na-141 
K-4.6 Cl-104 HCO3-27 AnGap-15
___ 03:33PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 09:00AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 09:00AM URINE RBC-3* WBC-3 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 03:33PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS: None

MICRO: No micro
 
EKG: sinus, rate 64, normal axis, normal intervals, QTC 413, no 
ischemic changes

IMAGING:  No imaging
 
Brief Hospital Course:
___ year old man with one past psychiatric hospitalization to 
___ a week ago for mania, presented with recurrent mood 
swings, cycling between depressed mood/SI and symptoms of mania. 


# Acute mania: The patient was seen by psychiatry in the ED, who 
recommended inpatient psychiatric admission given his rapid 
cycling bipolar disorder and safety concerns at home. He was 
___ and given a 1:1 sitter. He medically cleared in the 
ED but was admitted to medicine overnight given psychiatric bed 
shortage. Per psychiatry's recommendations, he was started on 
Risperidone 1 mg PO BID and ativan 1 mg PO TID. 

TRANSITIONAL ISSUES:
- Should repeat UA as an outpatient to ensure microscopic 
hematuria resolved. 
- CONTACT:  ___ (dad): ___, ___ (mom): ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 100 mg PO TID 
2. QUEtiapine Fumarate 12.5-25 mg PO QHS 

 
Discharge Medications:
1. RISperidone 1 mg PO BID 
2. Lorazepam 1 mg PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute mania

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay. You were 
admitted to medicine given your mania symptoms and safety 
concerns at home. Psychiatry saw you, and recommended new 
medications, Ativan and risperidone. You did well overnight and 
now are being discharged to an inpatient psychiatric facility. 
We wish you the best!

Your ___ care team
 
Followup Instructions:
___